US04440927
Methyl 3-O-benzyl-4-O-tosyl-6-O-trityl-2-deoxy-α-D-ribo-hexopyranoside (15.3 g; 23.01 mmoles) was dissolved in methylene chloride (200 ml). Aqueous trifluoroacetic acid (70% TFA in water, 9.6 ml) was added with vigorous stirring. The vigorous stirring was continued for five minutes (bright yellow color appears), then the reaction was quenched by the addition of saturated aqueous sodium carbonate solution (40 ml) with vigorous stirring (note: the reaction becomes colorless). The methylene chloride layer was separated and the aqueous layer extracted with methylene chloride. The combined methylene chloride extracts were dried (MgSO4), filtered and the solvent was evaporated in vacuo to give crude product. This product was chromatographed on 650 g of silica gel eluting with 3 L of methylene chloride to remove triphenyl carbinol from the column followed by elution with 10% (by volume) acetone in methylene chloride. When a faintly visible opaque band of product neared the bottom of the column the fractions containing the product were collected and the solvent was evaporated in vacuo to leave 8.1 g of methyl 3 -O-benzyl-4-O-tosyl-2-deoxy-α-D-ribo-hexopyranoside, m.p. 100°-101° C., [α]D25 =115.07 (c, 0.48, CHCl3)

reactant | Methyl 3-O-benzyl-4-O-tosyl-6-O-trityl-2-deoxy-α-D-ribo-hexopyranoside | 23.01 mmoles, 15.3 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](OC)O[C@@H]([C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H40O7S
reactant | trifluoroacetic acid | 9.6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | methyl 3 -O-benzyl-4-O-tosyl-2-deoxy-α-D-ribo-hexopyranoside | 8.1 g | C(C1=CC=CC=C1)O[C@H]1C[C@@H](OC)O[C@@H]([C@H]1OS(=O)(=O)C1=CC=C(C)C=C1)CO | C21H26O7S
